US05440044
A solution of 2.6 g of 5-(6-bromo-2-pyridyl)-(E,E)-2,4-pentadienoic acid ethyl ester in 73 ml of toluene is mixed with stirring and under argon atmosphere at -70° C. by instillation with 15.4 ml of diisobutylaluminum hydride (20% solution in toluene) and the mixture is stirred for 45 more minutes at this temperature. The reaction mixture is mixed at -70° C. in succession by instillation with 5.5 ml of isopropanol and 7.3 ml of water, stirred for 1 hour at room temperature, suctioned off on diatomaceous earth, rewashed with dichloromethane, the filtrate is dried on sodium sulfate and concentrated by evaporation. 2.2 g of 5-(6-bromo-2-pyridyl)-(E,E)-2,4-pentadien1-ol is obtained as crude product.

reactant | 5-(6-bromo-2-pyridyl)-(E,E)-2,4-pentadienoic acid ethyl ester | 2.6 g | C(C)OC(\C=C\C=C\C1=NC(=CC=C1)Br)=O | C12H12BrNO2
reactant | diisobutylaluminum hydride | 15.4 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | isopropanol | 5.5 ml | C(C)(C)O | C3H8O
reactant | water | 7.3 ml | O | H2O
solvent | toluene | 73 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(6-bromo-2-pyridyl)-(E,E)-2,4-pentadien1-ol | 2.2 g | BrC1=CC=CC(=N1)/C=C/C=C/CO | C10H10BrNO
